US07678920B2
2-[(6-Chloropyridin-3-yl)methyl]tetrahydro-1H-1λ4-thiophen-1-imine-1-oxide was prepared from 2-chloro-5-[(1-oxidotetrahydrothien-2-yl)methyl]-pyridine by the method as described in Example I-H using NaN3 as the iminating agent.

reactant | 2-chloro-5-[(1-oxidotetrahydrothien-2-yl)methyl]-pyridine | ClC1=NC=C(C=C1)CC1S(CCC1)=O | C10H12ClNOS
reactant | I-H | I | HI
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
product | 2-[(6-Chloropyridin-3-yl)methyl]tetrahydro-1H-1λ4-thiophen-1-imine-1-oxide | ClC1=CC=C(C=N1)CC1S(CCC1)(=N)=O | C10H13ClN2OS
